US04244968
1-hydroxy-3,4-dihydroanthraquinone is reacted with 2 moles of acetic anhydride in pyridine for 15 hours. The mixture is poured into water, when 1-acetyl-3,4-dihydro-anthraquinone separates. It is collected, washed and dried at 80° C. and 2 Pa absolute (15 torr). The 1-acetyl-3,4-dihydroanthraquinone is reacted with 2 moles of N-bromosuccinimide while suspended in boiling carbon tetrachloride under reflux for 2 hours. 1-acetyl-3-bromo-3,4-dihydroanthraquinone is collected, dissolved in acetone and treated with ethyl 2-bromoacetate and excess copper powder, under reflux, for 2 hours. The ethyl ester of 1-acetoxy-3(carboxymethyl)-3,4-dihydroanthraquinone is collected and hydrolysed by standing overnight in N sodium hydroxide solution under nitrogen. The free acid, 1-hydroxy-3(carboxymethyl)-3,4-dihydroanthraquinone is then obtained on acidification.

reactant | 1-hydroxy-3,4-dihydroanthraquinone | OC1=CCCC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H10O3
reactant | acetic anhydride | 2 moles | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-acetyl-3,4-dihydro-anthraquinone | C(C)(=O)C1=CCCC=2C(C3=CC=CC=C3C(C12)=O)=O | C16H12O3
reactant | N-bromosuccinimide | 2 moles | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | O | H2O
product | 1-hydroxy-3(carboxymethyl)-3,4-dihydroanthraquinone | OC1=CC(CC=2C(C3=CC=CC=C3C(C12)=O)=O)CC(=O)O | C16H12O5
